US07846956B2
5.95 g of malononitrile was dissolved in 30 ml of N,N-dimethylformamide, and 12.44 g of potassium carbonate was then added under ice-cooling. Thereto a solution of 6.27 g of 1-t-butyl-4-(chloromethyl)-1H-pyrazole hydrochloride in 30 ml of N,N-dimethylformamide was added dropwise over 1 hour. After completion of the addition, the mixture was stirred at room temperature for 8 hours. After water was added, the reaction mixture was extracted with methyl-t-butyl ether. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 4.12 g of [(1-t-butyl-1H-pyrazol-4-yl)methyl]malononitrile.

reactant | malononitrile | 5.95 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 12.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-t-butyl-4-(chloromethyl)-1H-pyrazole hydrochloride | 6.27 g | Cl.C(C)(C)(C)N1N=CC(=C1)CCl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [(1-t-butyl-1H-pyrazol-4-yl)methyl]malononitrile | 4.12 g | C(C)(C)(C)N1N=CC(=C1)CC(C#N)C#N | C11H14N4
